US08486967B2
e) N-(3-(4-Fluoro-phenyl)-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea
To a solution of 3-(4-fluoro-phenyl)-pyridin-2-ylamine (200 mg, 1.06 mmol) in dioxane (10 mL) was added ethoxycarbonyl isothiocyanate (141 μL, 1.17 mmol) and stirred at room temperature for 12 hours. The solvent was evaporated and the residue was used for the next step without purification. The title compound was obtained as a light yellow solid (340 mg, 100%).

reactant | 3-(4-fluoro-phenyl)-pyridin-2-ylamine | 1.06 mmol, 200 mg | FC1=CC=C(C=C1)C=1C(=NC=CC1)N | C11H9FN2
reactant | ethoxycarbonyl isothiocyanate | 1.17 mmol, 141 μL | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(3-(4-Fluoro-phenyl)-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | FC1=CC=C(C=C1)C=1C(=NC=CC1)NC(=S)NC(=O)OCC | C15H14FN3O2S
